US08729078B2
1-(2-Formyl-3-iodophenyl)-3-(4-(morpholine-4-carbonyl)phenylamino)-1H-pyrazole-4-carbonitrile (115 mg, 0.218 mmol), 6-tert-butyl-8-fluorophthalazin-1(2H)-one (48 mg, 0.218 mmol), cuprous iodide (41.5 mg, 0.218 mmol) and sodium bicarbonate (36.6 mg, 0.436 mmol) were combined in 2 mL of DMSO. The mixture was thoroughly degassed with argon and stirred in an oil bath preheated to 100° C. for 1 hr. The mixture was extracted with dichloromethane and water. The organic layer was washed with brine, dried over sodium sulfate and filtered. Solvents were evaporated and the residue was purified by flash column chromatography using methanol in dichloromethane (0% to 5% in 16 minutes, 24 g silica gel) to give 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-formyl-phenyl]-3-[4-(morpholine-4-carbonyl)-phenylamino]-1H-pyrazole-4-carbonitrile as a pale pink solid (54 mg, 40% yield). LC/MS clacd for C34H30FN7O4 (m/e) 619.23, obsd 620.0 (M+H, ES+); 1H NMR (400 MHz, CDCl3) δ ppm 1.43 (s, 9H), 3.56-3.76 (m, 8H), 6.61 br. s., 1H), 7.40 (d, J=8.6 Hz, 2H), 7.46 (d, J=8.6 Hz, 2H), 7.52 (dd, J=12.4, 1.8 Hz, 1H), 7.55-7.59 (m, 2H), 7.64 (d, J=7.8 Hz, 1H), 7.78 (t, J=8.1 Hz, 1H), 8.16 (s, 1H), 8.32 (s, 1H), 9.97 (s, 1H).

reactant | 1-(2-Formyl-3-iodophenyl)-3-(4-(morpholine-4-carbonyl)phenylamino)-1H-pyrazole-4-carbonitrile | 0.218 mmol, 115 mg | C(=O)C1=C(C=CC=C1I)N1N=C(C(=C1)C#N)NC1=CC=C(C=C1)C(=O)N1CCOCC1 | C22H18IN5O3
reactant | 6-tert-butyl-8-fluorophthalazin-1(2H)-one | 0.218 mmol, 48 mg | C(C)(C)(C)C=1C=C2C=NNC(C2=C(C1)F)=O | C12H13FN2O
reactant | sodium bicarbonate | 0.436 mmol, 36.6 mg | C([O-])(O)=O.[Na+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-formyl-phenyl]-3-[4-(morpholine-4-carbonyl)-phenylamino]-1H-pyrazole-4-carbonitrile | 54 mg, 40% yield | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C#N)NC1=CC=C(C=C1)C(=O)N1CCOCC1)C=O | C34H30FN7O4
